US08895558B2
Ethyl 5-phenyl-1H-pyrrole-3-carboxylate
Ethyl 2-chloro-1-methyl-5-phenyl-1H-pyrrole-3-carboxylate (2.4 g, 9.1 mmol) and 10% Pd/C (100 mg) was dissolved in methanol (50 ml) at room temperature. The reaction mixture was hydrogenated for 6 hrs at room temperature and the resulting solution was filtered. After evaporated under reduced pressure, the residue was purified with normal phase preparative column chromatography to produce title compound (1.9g, 91%) as white solid.

reactant | Ethyl 2-chloro-1-methyl-5-phenyl-1H-pyrrole-3-carboxylate | 9.1 mmol, 2.4 g | ClC=1N(C(=CC1C(=O)OCC)C1=CC=CC=C1)C | C14H14ClNO2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | Ethyl 5-phenyl-1H-pyrrole-3-carboxylate | 1.9g, 91% | C1(=CC=CC=C1)C1=CC(=CN1)C(=O)OCC | C13H13NO2
